US07244730B2
(Step 5) N1-Methyl-5-bromo-2-(dimethylamino)-4-(hydroxymethyl)benzamide
After dissolving the methyl 5-bromo-2-(dimethylamino)-4-(hydroxymethyl)benzoate (1.179 g, 4.1 mmol) in a tetrahydrofuran (10 ml)-methanol (10 ml) mixed solvent, a 1 N sodium hydroxide aqueous solution (9.8 ml, 9.8 mmol) was added and the mixture was heated to reflux for 4 hours. Next, 5 N hydrochloric acid (9.8 ml, 9.8 mmol) was added and the reaction mixture was concentrated under reduced pressure. Acetonitrile was added to the residue and the mixture was concentrated under reduced pressure, and then the same procedure was repeated twice. Acetonitrile (20 ml), a 2.0 M dimethylamine-tetrahydrofuran solution (4.1 ml, 8.2 mmol), 1-hydroxybenztriazole (1.11 g, 8.2 mmol) and dicyclohexylcarbodiimide (1.69 g, 8.2 mmol) were added to the residue in that order and the mixture was stirred at room temperature for 20 hours. The insoluble portion was filtered off, the reaction mixture was concentrated under reduced pressure, ethyl acetate was added and the mixture was filtered through alumina. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.222 g) as a white solid. (100% yield)

reactant | methyl 5-bromo-2-(dimethylamino)-4-(hydroxymethyl)benzoate | 4.1 mmol, 1.179 g | BrC=1C(=CC(=C(C(=O)OC)C1)N(C)C)CO | C11H14BrNO3
reactant | sodium hydroxide | 9.8 mmol, 1 N, 9.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 9.8 mmol, 5 N, 9.8 ml | Cl | ClH
reactant | dimethylamine tetrahydrofuran | 8.2 mmol, 2.0 M, 4.1 ml | CNC.O1CCCC1
reactant | 1-hydroxybenztriazole | 8.2 mmol, 1.11 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 8.2 mmol, 1.69 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | Acetonitrile | 20 ml | C(C)#N | C2H3N
product | N1-Methyl-5-bromo-2-(dimethylamino)-4-(hydroxymethyl)benzamide | 1.222 g, 100% yield | CNC(C1=C(C=C(C(=C1)Br)CO)N(C)C)=O | C11H15BrN2O2
